US07223791B2
A mixture of methyl 3-nitro-4-[3-(4-trifluoromethylphenyl)-1,2,4-oxadiazol-5-yl]benzoate (2.00 g), 1 M aqueous sodium hydroxide solution (10.2 ml) and tetrahydrofuran (10 ml) was heated under reflux for 1 hr. After cooling, 1 M hydrochloric acid was added to acidify the reaction mixture. The crystals were collected by filtration to give 3-nitro-4-[3-(4-trifluoromethylphenyl)-1,2,4-oxadiazol-5-yl]benzoic acid (1.84 g, yield 95%). Recrystallization from hexane-tetrahydrofuran gave pale-yellow prism crystals. melting point: 233–234° C.

reactant | methyl 3-nitro-4-[3-(4-trifluoromethylphenyl)-1,2,4-oxadiazol-5-yl]benzoate | 2.00 g | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1C1=NC(=NO1)C1=CC=C(C=C1)C(F)(F)F | C17H10F3N3O5
reactant | sodium hydroxide | 1 M, 10.2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-nitro-4-[3-(4-trifluoromethylphenyl)-1,2,4-oxadiazol-5-yl]benzoic acid | 1.84 g, yield 95% | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1C1=NC(=NO1)C1=CC=C(C=C1)C(F)(F)F | C16H8F3N3O5
